US06930185B2
2-(1-Pyrrolidinylmethyl)-6-quinolinylamine
To the N-[2-(1-pyrrolidinylmethyl)-6-quinolinyl]acetamide (5.53 g, 20.5 mmol) obtained in 1) of Example 7 was added concentrated hydrochloric acid (100 ml), the mixture was stirred at 110° C. for 1 hour, and the solvent was distilled off under reduced pressure. To the resulting residue was added ethyl acetate, the mixture was washed with an aqueous potassium carbonate solution and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to obtain the titled compound (4.56 g) as a powder from ethyl acetate-hexane.

reactant | N-[2-(1-pyrrolidinylmethyl)-6-quinolinyl]acetamide | 20.5 mmol, 5.53 g | N1(CCCC1)CC1=NC2=CC=C(C=C2C=C1)NC(C)=O | C16H19N3O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-(1-Pyrrolidinylmethyl)-6-quinolinylamine | 4.56 g | N1(CCCC1)CC1=NC2=CC=C(C=C2C=C1)N | C14H17N3
